US03978065
3,5-Dimethoxy-4-isobutyl-benzoyl chloride. Starting from 3-hydroxy-5-methoxy-benzoic acid methyl ester and 3-chloro-2-methyl-propene, 3-(2-methyl-2-propenyloxy)-5-methoxy-benzoic acid methyl ester is obtained. B.p. 148°-50°C/0.4 mmHg. By operating as described under C), 3,5-dimethoxy-4-(2-methylpropenyl)-benzoic acid is prepared. M.p. 159°-61°C (from diethyl ether). This compound is hydrogenated as under D) to give 3,5-dimethoxy-4-isobutyl-benzoic acid. M.p. 160°-62°C (from diethyl ether/light petroleum). The corresponding chloride melts at 48°-50°C (from ligroin upon cooling).

reactant | 3,5-Dimethoxy-4-isobutyl-benzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1CC(C)C)OC | C13H17ClO3
reactant | 3-hydroxy-5-methoxy-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OC)O)=O | C9H10O4
reactant | 3-chloro-2-methyl-propene | ClCC(=C)C | C4H7Cl
product | 3-(2-methyl-2-propenyloxy)-5-methoxy-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OC)OCC(=C)C)=O | C13H16O4
